US08981104B2
rac-Ethyl 5-[(tert-butoxycarbonyl){2-[2-({4-[2-(4-fluorophenyl)ethyl]benzyl}oxy)phenyl]ethyl}-amino]-5,6,7,8-tetrahydroquinoline-2-carboxylate
5.60 g (12.71 mmol) of rac-ethyl 5-{(tert-butoxycarbonyl)[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate, 3.79 g (15.25 mmol) of 1-(chloromethyl)-4-[2-(4-fluorophenyl)ethyl]benzene and 2.64 g (19.07 mmol) of potassium carbonate in 200 ml of acetonitrile were heated to 110° C. and stirred at this temperature overnight. After cooling, the reaction mixture was filtered, the filter cake was washed repeatedly with acetonitrile and the combined filtrates were concentrated to dryness on a rotary evaporator. The residue obtained was purified chromatographically on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1→4:1). This gave 6.8 g (10.42 mmol, 82% of theory) of the target compound.

reactant | rac-ethyl 5-{(tert-butoxycarbonyl)[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | 12.71 mmol, 5.60 g | C(C)(C)(C)OC(=O)N(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC=C1)O | C25H32N2O5
reactant | 1-(chloromethyl)-4-[2-(4-fluorophenyl)ethyl]benzene | 15.25 mmol, 3.79 g | ClCC1=CC=C(C=C1)CCC1=CC=C(C=C1)F | C15H14ClF
reactant | potassium carbonate | 19.07 mmol, 2.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | rac-Ethyl 5-[(tert-butoxycarbonyl){2-[2-({4-[2-(4-fluorophenyl)ethyl]benzyl}oxy)phenyl]ethyl}-amino]-5,6,7,8-tetrahydroquinoline-2-carboxylate | C(C)(C)(C)OC(=O)N(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC=C1)OCC1=CC=C(C=C1)CCC1=CC=C(C=C1)F | C40H45FN2O5
